US08440830B2
5-tert-butyl 2-ethyl 6,7-dihydro[1,3]thiazolo[5,4-c]pyridine-2,5(4H)-dicarboxylate obtained in step V of example 1 was deprotected to get the 4,5,6,7-Tetrahydro-thiazolo[5,4-c]pyridine-2-carboxylic acid ethyl ester. To a solution of 4,5,6,7-Tetrahydro-thiazolo[5,4-c]pyridine-2-carboxylic acid ethyl ester (1 eq) and triethyl amine (1 eq) in chloroform, acetic anhydride was added and the reaction mixture was stirred for 1 h at room temperature. Reaction mixture was then diluted with chloroform and washed with water. Organic layer was then separated, dried and concentrated under reduced pressure to afford the desired ethyl 5-acetyl-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxylate.

reactant | 4,5,6,7-Tetrahydro-thiazolo[5,4-c]pyridine-2-carboxylic acid ethyl ester | 1 eq | C(C)OC(=O)C=1SC=2CNCCC2N1 | C9H12N2O2S
reactant | triethyl amine | 1 eq | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5-acetyl-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxylate | C(C)(=O)N1CC2=C(CC1)N=C(S2)C(=O)OCC | C11H14N2O3S
